US05869519
(3S)-3-[(1-Methylindole-2-Carbonyl)Leucinyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone
1-Methylindole-2-carboxylic acid (70 mg, 0.4 mmol) and 3(S)-(Leucinyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone (131 mg, 0.4 mmol) were dissolved in methylene chloride (2 mL) and both DMAP (49 mg, 0.40 mmol) and EDAC (107 mg, 0.56 mmol) were added to the solution under a nitrogen atmosphere at 0° C. Stirring was continued for 1 hour at 0° C. and an additional 3 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution. The ethyl acetate solution was washed successively with 5% KHSO4 solution, saturated with sodium bicarbonate solution (2×) and brine, dried over sodium sulfate, and concentrated in vacuo to give a crude solid. Trituration of the solid with ether afforded the title product as a white powder (156 mg, 80%). TLC: (methanol/methylene chloride: 5/95, silica gel): Rf =0.42; 1H NMR (CDCl3 +CD3OD): δ 8.18 (s, 1H) , 7.66-7.11 (m, 6H), 6.97 (s, 1H), 6.32 (d, J=7.7, 1H), 4.95-4.88 (m, 1H), 4.70-4.62 (m, 1H), 4.03 (s, 3H), 2.82-2.56 (m, 2H), 1.87-1.58 (m, 3H), 1.38 (9H), 1.00 (t, J-6.3, 6H).

reactant | 1-Methylindole-2-carboxylic acid | 0.4 mmol, 70 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 3(S)-(Leucinyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone | 0.4 mmol, 131 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C15H29N5O4
reactant | EDAC | 0.56 mmol, 107 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.40 mmol, 49 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S)-3-[(1-Methylindole-2-Carbonyl)Leucinyl]Amino-4-Oxobutanoic Acid, t-Butyl Ester Semicarbazone | 156 mg, 80% | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C25H36N6O5
